US04406689
In the same way, 4-[2-(4-chlorobenzyloxy)-5-pyridyl]-1,2-tetramethylenetriazolidine-3,5-dione is prepared by reacting N-ethoxycarbonylhexahydropyridazine with phosgene to give N-ethoxycarbonyl-N'-chlorocarbonylhexahydropyridazine, which is then reacted with 5-amino-2-(4-chlorobenzyloxy)pyridine.

reactant | N-ethoxycarbonylhexahydropyridazine | C(C)OC(=O)N1NCCCC1 | C7H14N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | N-ethoxycarbonyl-N'-chlorocarbonylhexahydropyridazine | C(C)OC(=O)N1N(CCCC1)C(=O)Cl | C8H13ClN2O3
